* C:\Users\nicholas\Repos\signals\lab5\spice.asc
XU1 0 N003 N006 N008 N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 0 N001 N006 N008 N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 0 N005 N006 N008 output level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N004 N003 22k
C1 N004 N003 100n
R2 N003 input 10k
V1 input 0 SINE(0 2 100 0 0 0 0) AC 1 180
R4 N001 N004 6.8k
C3 N002 N001 10n
R3 N002 N001 18.2k
R5 output N005 25k
C2 N005 N007 1µ
R6 N007 N002 25k
V3 N006 0 20
V2 0 N008 20
* low pass Wn = 440
* low pass Wn = 5500
* high pass wn = 40
.ac dec 100 0.01 63000000
.lib UniversalOpAmp1.lib
.backanno
.end
